US07087601B2
Utilizing the general procedure outlined for the synthesis of 1-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]cyclobutanecarbonitrile, 4-(1,3-benzoxazol-2-yl)-2-methoxybenzonitrile (250 mg, 0.95 mmol) was reacted with 1,5-dibromopentane (160 μL, 1.1 mmol) to afford the desired 1-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]cyclohexanecarbonitrile as a colorless solid: 1H NMR (CDCl3, 300 MHz) δ 7.83–7.75 (m, 3H), 7.59–7.56 (m, 1H) 7.45–7.43 (d, 1H), 7.38–7.34 (m, 2H), 4.04 (s, 3H), 2.41–2.38 (d, 2H), 1.92–1.15 (m, 8H). MS (ESI) 333 (M+H)+.

reactant | 1-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]cyclobutanecarbonitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C2(CCC2)C#N)OC | C19H16N2O2
reactant | 4-(1,3-benzoxazol-2-yl)-2-methoxybenzonitrile | 0.95 mmol, 250 mg | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C#N)C=C2)OC | C15H10N2O2
reactant | 1,5-dibromopentane | 1.1 mmol, 160 μL | BrCCCCCBr | C5H10Br2
product | 1-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]cyclohexanecarbonitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C2(CCCCC2)C#N)OC | C21H20N2O2
